US07829586B2
3) 1-(4-Bromo-3,5-difluorophenyl)propan-1-one
2-(4-Bromo-3,5-difluorophenyl)-2-ethyl-1,3-dioxolane (1.20 g) was dissolved in 1 N hydrochloric acid/tetrahydrofuran/acetic acid (1/1/1, 30 ml). The reaction liquid was stirred overnight with heating under reflux, then diluted with ethyl acetate, and washed with aqueous saturated sodium hydrogencarbonate solution. The organic layer was dried with anhydrous sodium sulfate, then the solvent was evaporated off, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain the entitled compound (806 mg) as a pale yellow oil.

reactant | 2-(4-Bromo-3,5-difluorophenyl)-2-ethyl-1,3-dioxolane | 1.20 g | BrC1=C(C=C(C=C1F)C1(OCCO1)CC)F | C11H11BrF2O2
solvent | hydrochloric acid tetrahydrofuran acetic acid | 1 N, 30 ml | Cl.O1CCCC1.C(C)(=O)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Bromo-3,5-difluorophenyl)propan-1-one | 806 mg | BrC1=C(C=C(C=C1F)C(CC)=O)F | C9H7BrF2O
